US09108969B2
Step B: Preparation of 2-(7-(3-Cyano-4-cyclopentylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
5-(Chloromethyl)-2-cyclopentylbenzonitrile (38.2 mg, 0.174 mmol), tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (50 mg, 0.174 mmol), and K2CO3 (36.1 mg, 0.261 mmol) were dissolved in DMF and heated to 60° C. for 16 h. The reaction mixture was filtered through Celite® and purified by HPLC. The intermediate was isolated and dissolved in TFA (0.2 M) and added D/L-cysteine. After 15 min, the mixture was poured into water and extracted with DCM. The organic extract was concentrated to give the title compound. LCMS m/z=415.6 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.55-1.67 (m, 2H), 1.70-1.78 (m, 2H), 1.80-1.88 (m, 2H), 2.11-2.20 (m, 2H), 2.26-2.36 (m, 1H), 2.66 (dd, J=16.5, 8.6 Hz, 1H), 2.86-2.97 (m, 2H), 3.42 (quintet, J=8.6 Hz, 1H), 3.75 (quintet, J=7.3 Hz, 1H), 3.97-4.05 (m, 1H), 4.10-4.17 (m, 1H), 5.06 (s, 2H), 6.12 (s, 1H), 6.85 (dd, J=8.0, 2.0 Hz, 1H), 7.06 (d, J=2.0 Hz, 1H), 7.14 (d, J=8.8 Hz, 1H), 7.39 (d, J=8.2 Hz, 1H), 7.60 (d, J=8.3 Hz, 1H), 7.69 (s, 1H).

reactant | 5-(Chloromethyl)-2-cyclopentylbenzonitrile | 0.174 mmol, 38.2 mg | ClCC=1C=CC(=C(C#N)C1)C1CCCC1 | C13H14ClN
reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.174 mmol, 50 mg | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | K2CO3 | 0.261 mmol, 36.1 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | TFA | 0.2 M | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 2-(7-(3-Cyano-4-cyclopentylbenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1C1CCCC1 | C26H26N2O3
